US04863920
7.47 g (20 mmol) of 7-chloro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was heated to boiling under reflux for 4 hours with 1.75 g (25 mmol) of 3-butyn-2-ol, 70 mg of bis-(triphenylphosphine)-palladium(II) dichloride and 10 mg of copper(I) iodide in 50 ml of diethylamine and 20 ml of ethylene chloride. After removal of the solvent by evaporation the residue was taken up in methylene chloride and the thus-obtained suspension was suction filtered. The material obtained was washed with methylene chloride and, after recrystallization from ethyl acetate, there was obtained 7-chloro-4,5-dihydro-3-(3-hydroxy-1-butynyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 251°-252°.

reactant | 7-chloro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 20 mmol, 7.47 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1I)C)=O | C12H9ClIN3O
reactant | 3-butyn-2-ol | 25 mmol, 1.75 g | CC(C#C)O | C4H6O
solvent | diethylamine | 50 ml | C(C)NCC | C4H11N
solvent | ethylene chloride | 20 ml | C(CCl)Cl | C2H4Cl2
catalyst | bis-(triphenylphosphine)-palladium(II) dichloride | 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 10 mg | [Cu]I
product | 7-chloro-4,5-dihydro-3-(3-hydroxy-1-butynyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C#CC(C)O)C)=O | C16H14ClN3O2
